US09359362B2
(rac)-7-(4-Cyanophenyl)-5-methyl-2-(1-methylethyl)-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile
Under an atmosphere of argon protective gas, (rac)-7-(4-cyanophenyl)-5-methyl-2-(1-methylethyl)-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (63 mg, 207 μmol) was stirred in abs. dichloromethane (50 ml) with molecular sieve (0.5 g, 4 Å) for 1 h. 3-(Trifluoromethyl)phenylboronic acid (118 mg, 621 μmol, 3 eq.), anhydrous copper(II) acetate (113 mg, 621 μmol, 3 eq.), abs. pyridine (1390 μl) and triethylamine (63 mg, 621 μmol, 3 eq.) were then added, and the mixture was stirred at RT for 12 h. More molecular sieve (0.5 g, 4 Å), 3-(trifluoromethyl)phenylboronic acid (39 mg, 207 μmol, 1 eq.), anhydrous copper(II) acetate (38 mg, 207 μmol, 1 eq.) and abs. pyridine (500 μl) were then added, and the mixture was stirred at RT for a further 3 d. The reaction mixture was then filtered through kieselguhr, the filter residue was washed with dichloromethane and pyridine and the filtrate was concentrated to dryness. The residue was purified by preparative HPLC (Gromsil C18 column, 10 μm; mobile phase: acetonitrile/water+0.1% TFA 10:90→90:10). The product was obtained as a colorless solid (29.8 mg, 64% of theory).

reactant | (rac)-7-(4-cyanophenyl)-5-methyl-2-(1-methylethyl)-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 207 μmol, 63 mg | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)C(C)C)C)C#N | C17H16N6
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | 3-(Trifluoromethyl)phenylboronic acid | 621 μmol, 118 mg, 3 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | triethylamine | 621 μmol, 63 mg, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)phenylboronic acid | 207 μmol, 39 mg, 1 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
catalyst | copper(II) acetate | 621 μmol, 113 mg, 3 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(II) acetate | 207 μmol, 38 mg, 1 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | pyridine | 500 μl | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1390 μl | N1=CC=CC=C1 | C5H5N
product | (rac)-7-(4-Cyanophenyl)-5-methyl-2-(1-methylethyl)-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=C(N2)C(C)C)C2=CC(=CC=C2)C(F)(F)F)C)C#N | C24H19F3N6
